US04485113
Preparation of 3,5,5-Trimethyl-2-[[-O-[N-methyl-N-(2-methyl-1,3-dichloro-2-propanesulfenyl)carbamoyl] oximino]]-4-thiazolidinone
To a solution of 3.28 g of 3,5,5-trimethyl-2-oximino-4-thiazolidinone and 5.0 g of N-methyl-N-(2-methyl-1,3-dichloro-2-propanesulfenyl)carbamoyl fluoride in 75 ml of dioxane, was added dropwise with stirring 2.18 g of triethylamine. The spontaneous exotherm raised the temperature to 30° C. After following the reaction mixture to stand at room temperature for 16 hours, the reaction mixture was diluted with 300 ml of water. The product was isolated in ethylacetate and purified by column chromatography over silica gel to yield 3.0 g of a white solid. m.p. 91°-92° C.

reactant | 3,5,5-trimethyl-2-oximino-4-thiazolidinone | 3.28 g | CN1C(SC(C1=O)(C)C)=NO | C6H10N2O2S
reactant | N-methyl-N-(2-methyl-1,3-dichloro-2-propanesulfenyl)carbamoyl fluoride | 5.0 g | CN(C(=O)F)SC(CCl)(CCl)C | C6H10Cl2FNOS
reactant | triethylamine | 2.18 g | C(C)N(CC)CC | C6H15N
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
solvent | water | 300 ml | O | H2O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 3,5,5-Trimethyl-2-[[-O-[N-methyl-N-(2-methyl-1,3-dichloro-2-propanesulfenyl)carbamoyl] oximino]]-4-thiazolidinone | 3.0 g | CN1C(SC(C1=O)(C)C)=NOC(N(SC(CCl)(CCl)C)C)=O | C12H19Cl2N3O3S2
